US05550134
(+)-(4aR)-(10bR)-4,10b-dimethyl-8-(3-nitrobenzoylamino)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 620 mg portion of (4aR)-(10bR)-4,10b-dimethyl-8-amino-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one was dissolved in 100 ml of THF, and an equivalent amount of 3-nitrobenzoyl chloride (500 mg) was added. The reaction mixture was stirred for 4 h, and was then evaporated to dryness under vacuum. The residue was purified by chromatography on silica gel, eluting with 10% methanol in ethyl acetate, and the product-containing fractions were evaporated and the resulting solid was crystallized from dichloromethane/hexane to obtain 595 mg of the desired product, m.p. 240°-242°. FDMS: m/e=393. α[D]589 =+75.79°.

reactant | (4aR)-(10bR)-4,10b-dimethyl-8-amino-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)N)C)=O | C15H20N2O
reactant | 3-nitrobenzoyl chloride | 500 mg | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (+)-(4aR)-(10bR)-4,10b-dimethyl-8-(3-nitrobenzoylamino)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 595 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)NC(C3=CC(=CC=C3)[N+](=O)[O-])=O)C)=O | C22H23N3O4
